US07781431B2
Step 4: methyl 6-cyclohex-1-en-1-yl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.2 M) of methyl 5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in acetic acid was treated with acetic anhydride (10 eq.), cyclohexanone (10 eq.) and 85% phosphoric acid (2.3 eq.). The mixture was heated at 80° C. for 3 h, then was poured into ice cold ammonium hydroxide. The product was extracted with AcOEt and the combined organic layers were washed sequentially with aqueous HCl (1 N), aqueous NaHCO3 (saturated solution) and brine then dried and concentrated. The crude was purified by flash chromatography on silica gel (1:4 AcOEt/petroleum ether) affording the title compound (69%) as a solid.

reactant | methyl 5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.2 M | C1(=CC=CC=C1)C1=CC2=C(N1)C=C(S2)C(=O)OC | C14H11NO2S
reactant | acetic anhydride | 10 eq. | C(C)(=O)OC(C)=O | C4H6O3
reactant | cyclohexanone | 10 eq. | C1(CCCCC1)=O | C6H10O
reactant | phosphoric acid | 2.3 eq. | P(O)(O)(O)=O | H3O4P
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 6-cyclohex-1-en-1-yl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 69% | C1(=CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)OC | C20H19NO2S
